US06037477
A mixture of 2 mmole of benzylmethylether, 2 mole % of N-hydroxyphthalimide relative to benzylmethylether, and 5 ml of benzonitrile was stirred for 12 hours at 100° C. under an oxygen atmosphere. The products in the reaction mixture were analyzed by gas chromarography, and, as a result, methyl benzoate (yield 60%) was formed.

reactant | benzylmethylether | 2 mmole | C(C1=CC=CC=C1)OC | C8H10O
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | benzonitrile | 5 ml | C(C1=CC=CC=C1)#N | C7H5N
product | methyl benzoate | yield 60% | C(C1=CC=CC=C1)(=O)OC | C8H8O2
